Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2],4.99820576154
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]1([O:6][H:7])[C:8][C:9]1[H:10],1.17230878087
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],6.38435397125
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.59943788072
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7])[O:8][H:9]>>[C:1]#[C:2][C:4]([H:5])([C:6]#[C:7])[O:8][H:9].[H:3],3.93313590271
[C:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-2.77064129362
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-6.14158780028
[C:2](=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8])=[O:12].[O:1]([C:9]([H:10])[H:11])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.62812215904
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.497162407409999
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],5.20381022755
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14].[H:7],1.86616511077
[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.0678491152299998
[H:1][C:2][O:3][C:4]([H:5])[O:7][H:8].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-4.15128777809
[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]1>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11],1.06819313908
[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.24505280003
[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8][O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],0.320115560311
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.98783193383
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1],3.90995565449
[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],-4.260432692819999
[C:1]#[C:2][C:10]([H:11])([H:12])[H:13].[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.7186043323010001
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],1.1355814138299998
[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.77024567952
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.79144786603
[H:1][C:2]#[C:3][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-2.38033574554
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:11]([H:12])([H:13])[H:14],4.521459188180001
[C:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:4][C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:3],2.0474494073800003
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[O:8][H:9]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-3.24925140943
[C:1]#[C:2][C:3]([H:4])[C:6]#[C:8][H:9].[C:5]([H:7])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.67325368523
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.71495365412
